US07094763B2
3-(4-Ethylbenzyl)-5-(β-D-glucopyranosyl)-1H-indole
3-(4-Ethylbenzyl)-5-(2,3,4,6-tetra-O-benzyl-β-D-glucopyranosyl)-1H-indole: Part E (0.68 g, 0.78 mmol) was dissolved in THF (15 mL) and 25% aqueous sodium hydroxide (5 mL) and the resulting solution was brought to reflux for 3 h. After cooling to room temperature, the mixture was diluted with water (30 mL), and extracted with ethyl acetate. The organic extracts were washed with water and brine, dried over anhydrous sodium sulfate and concentrated in vacuo. The crude product was purified by chromatography on silica gel eluting with ethyl acetate/hexane (1:3) to provide the title compound (0.5 g, 85%) as white solid. G. 3-(4-Ethylbenzyl)-5-(β-D-glucopyranosyl)-1H-indole: A solution of Part F (0.30 g, 0.4 mmol) in ethanol (10 mL) and ethyl acetate (20 mL) was hydrogenated over 10% Pearlman's catalyst (0.30 g) under 14 psi of H2 for 40 h. The catalyst was removed by filtration and the filtrate was concentrated in vacuo. The crude product was purified by chromatography on silica gel eluting with methanol/chloroform (10:100) to provide the titled compound (0.04 g, 25%) as a white solid. 1HNMR (300 MHz, CD3OD) δ 7.51 (s, 1H), 7.32 (d, J=8.52 Hz, 1H), 7.19–7.15 (m, 3H), 7.06 (d, J=7.87 Hz, 2H), 6.95 (s, 1H), 4.18–4.15 (m, 1H), 4.04 (s, 2H), 3.87 (d, J=12.2 Hz, 1H), 3.71–3.65 (m, 1H), 3.53–3.48 (m, 2H), 3.45–3.41 (m, 2H), 2.58 (q, J=7.58 Hz, 2H), 1.19 (t, J=7.65 Hz, 3H). MS: m/z (M+Na) 420.

reactant | 3-(4-Ethylbenzyl)-5-(2,3,4,6-tetra-O-benzyl-β-D-glucopyranosyl)-1H-indole | C(C)C1=CC=C(CC2=CNC3=CC=C(C=C23)[C@H]2[C@H](OCC3=CC=CC=C3)[C@@H](OCC3=CC=CC=C3)[C@H](OCC3=CC=CC=C3)[C@H](O2)COCC2=CC=CC=C2)C=C1 | C51H51NO5
reactant | sodium hydroxide | 5 mL | [OH-].[Na+]
solvent | THF | 15 mL | C1CCOC1 | C4H8O
solvent | water | 30 mL | O | H2O
product | 3-(4-Ethylbenzyl)-5-(β-D-glucopyranosyl)-1H-indole | 0.5 g, 85% | C(C)C1=CC=C(CC2=CNC3=CC=C(C=C23)[C@H]2[C@H](O)[C@@H](O)[C@H](O)[C@H](O2)CO)C=C1 | C23H27NO5
